US07045539B2
2-Amino-6-bromo-4-methoxy-phenol (0.40 g), 1,3-dimethylaminopropyl)-3-ethylcarbodiimide (1.06 g), 1-hydroxybenzotriazole (0.50 g), dimethylaminopyridine (0.22 g) and DL-5-oxo-pyrrolidine-2-carboxylic acid (0.25 g) were reacted together in methylene chloride (7.3 mL). After 3 h, the reaction was diluted with methylene chloride (10 mL) and washed successively with 1N HCl (10 mL), sat. aq. NaHCO3 (10 mL), sat. aq. NaCl (10 mL). The organic layer was dried over sodium sulfate, filtered through celite and concentrated. Chromatography on silica gel (eluant: 0 to 20% methanol:methylene chloride) afforded 5-oxo-pyrrolidine-2-carboxylic acid (3-bromo-2-hydroxy-5-methoxy-phenyl)-amide (0.18 g). MS: 370.2 (100%), 372.2 (90%) (MH+); HPLC tR: 1.51 min. 5-Oxo-pyrrolidine-2-carboxylic acid (3-bromo-2-hydroxy-5-methoxy-phenyl)-amide was cyclized according to synthetic method R to obtain the title compound (0.09 g) after purification on silica gel (eluant: 0 to 30% methanol:methylene chloride). MS: 352.2 (100%), 354.2 (95%) (MH++CH3CN), 311.2 (20%), 313.2 (20%) (MH+).; HPLC tR: 1.84 min.

reactant | 2-Amino-6-bromo-4-methoxy-phenol | 0.40 g | NC1=C(C(=CC(=C1)OC)Br)O | C7H8BrNO2
reactant | 3-ethylcarbodiimide | 1.06 g | C(C)N=C=N | C3H6N2
reactant | 1-hydroxybenzotriazole | 0.50 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dimethylaminopyridine | 0.22 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | DL-5 oxo-pyrrolidine-2-carboxylic acid | 0.25 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.O=C1C(NCC1)C(=O)O
solvent | methylene chloride | 7.3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-oxo-pyrrolidine-2-carboxylic acid (3-bromo-2-hydroxy-5-methoxy-phenyl)-amide | 0.18 g | BrC=1C(=C(C=C(C1)OC)NC(=O)C1NC(CC1)=O)O | C12H13BrN2O4
